US09334279B2
To a 500 mL round-bottom flask equipped with a stir bar was added (S)-2-(diphenyl((trimethylsilyl)oxy)methyl)pyrrolidine (2.60 g, 8.00 mmol) and CHCl3 (200 mL). To the solution was added tert-butyl tosylcarbamate (10.9 g, 40.0 mmol). The flask was placed in a room temperature-water bath. To the stirred solution was added sodium acetate (9.84 g, 120 mmol), then (E)-pent-2-enal (4.04 g, 48.0 mmol). The mixture was stirred at room temperature for 40 minutes. The mixture was filtered, washing the filter cake with a small amount of CHCl3. The filtrate was concentrated in vacuo at 30° C. The resulting orange liquid was dissolved in Et2O (400 mL) and transfered to a 1 L separatory funnel. The solution was washed with water:aq. sat. NaHCO3 (200 mL:200 mL). The aqueous phase was extracted with Et2O (100 mL). The combined organics were washed with brine (200 mL); dried over MgSO4; filtered; then concentrated in vacuo to afford (2R,3S)-tert-butyl 2-ethyl-3-formylaziridine-1-carboxylate as a pale orange liquid.

reactant | (S)-2-(diphenyl((trimethylsilyl)oxy)methyl)pyrrolidine | 8.00 mmol, 2.60 g | C1(=CC=CC=C1)C([C@H]1NCCC1)(O[Si](C)(C)C)C1=CC=CC=C1 | C20H27NOSi
reactant | tert-butyl tosylcarbamate | 40.0 mmol, 10.9 g | S(=O)(=O)(C1=CC=C(C)C=C1)NC(OC(C)(C)C)=O | C12H17NO4S
reactant | sodium acetate | 120 mmol, 9.84 g | C(C)(=O)[O-].[Na+]
reactant | (E)-pent-2-enal | 48.0 mmol, 4.04 g | C(\C=C\CC)=O | C5H8O
solvent | CHCl3 | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | (2R,3S)-tert-butyl 2-ethyl-3-formylaziridine-1-carboxylate | C(C)[C@H]1N([C@@H]1C=O)C(=O)OC(C)(C)C | C10H17NO3
